US04199512
5-Bromo-N-(3-mercapto-1-oxopropyl)-DL-tryptophan
The 130 mg. of material that remains in the flask is dissolved in acetonitrile and treated with 1 equivalent of dicyclohexylamine. After standing several hours, the precipitate is filtered off and dried at 40° 1 mm to yield 200 mg. of 5-bromo-N-(3-mercapto-1-oxopropyl)-DL-tryptophan dicyclohexylamine salt; m.p. 198°-201°.

reactant | dicyclohexylamine | 1 equivalent | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | 5-bromo-N-(3-mercapto-1-oxopropyl)-DL-tryptophan dicyclohexylamine salt | C1(CCCCC1)NC1CCCCC1.BrC1=CC=C2NC=C(CC(NC(CCS)=O)C(=O)O)C2=C1
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-Bromo-N-(3-mercapto-1-oxopropyl)-DL-tryptophan | BrC1=CC=C2NC=C(CC(NC(CCS)=O)C(=O)O)C2=C1 | C14H15BrN2O3S
